**************** Power Discrete MOSFET Electrical Circuit Model *****************
** Product Name: BSS138W 
** N-Channel Logic Level Enhancement Mode FET
** Package: SOT-523F
** Model Type: BSIM3V3
**-------------------------------------------------------------------------------
.SUBCKT BSS138 D G S    
*Nom Temp=25 deg C
Dbody 7 5    DbodyMOD
Dbreak 5 11  DbreakMOD
Ebreak 11 7 17 7 50
Lgate G 9    1.70e-9
Ldrain D 5   1.44e-9
Lsource S 7  1.70e-9
RLgate G 9   17.0
RLdrain D 5  14.4
RLsource S 7 17.0
Rgate 9 6    11
It 7 17      1
Rbreak 17 7  RbreakMOD 1
.MODEL RbreakMOD RES (TC1=8.05e-4 TC2=5.55e-7)
.MODEL DbodyMOD D (IS=1.05e-9   N=1.5    RS=6.02e-2   TRS1=2.1e-3 TRS2=4e-6 
+ CJO=1.04e-11     M=0.38       VJ=0.47  TT=1.525e-8  XTI=3       EG=1.02)
.MODEL DbreakMOD D (RS=100e-3 TRS1=1.0e-3 TRS2=1.5e-6)
Rdrain 5 16 RdrainMOD 1.17
.MODEL RdrainMOD RES (TC1=1.1e-2 TC2=7.05e-5)
M_BSIM3 16 6 7 7 Bsim3 W=0.06 L=2.0e-6 NRS=1
.MODEL Bsim3 NMOS (LEVEL=7 VERSION=3.1 MOBMOD=3 CAPMOD=2 PARAMCHK=1 NQSMOD=0
+ TOX=700e-10    XJ=9.4e-5      NCH=1.0e16
+ U0=700         VSAT=1.0e5     DROUT=1.0
+ DELTA=0.01     PSCBE2=0       RSH=8.04e-4
+ VTH0=1.40      VOFF=-0.1      NFACTOR=1.1
+ LINT=1.58e-7   DLC=1.58e-7    
+ CGSO=5.2e-12   CGSL=0         CGDO=9.2e-11
+ CGDL=5.08e-10  CJ=0           CF=0
+ CKAPPA=0.2     KT1=-0.96      KT2=0
+ UA1=-1e-10     NJ=10 )       
.ENDS
**-------------------------------------------------------------------------------
** Creation: Sep.-10-2012
** Fairchild Semiconductor
