**********************************************************************
*  (C) Copyright 2017 Toshiba Electronic Devices & Storage Corporation
*  Date:             13/09/2017
*  File Name:        DF2S5M4CT.lib
*  Part Number:      DF2S5M4CT
*  Parameter Ver.:   Ver.2
*  Simulator:        PSpice
*  Model Call Name:  DIODE_DF2S5M4CT
*  TNOM:             25 degree
*  Pin Assign:       1=Anode 2=Cathode
*
* This model is not compatible with the high frequency application.
* (Capacitance values used in this model are measured at f = 1 MHz
*  and room temperature.)
*
* To adjust the device's property, imaginary elements are used.
*
* This model does not include snap-back behavior and transient voltage
* overshoot effects.
*
* Ir-Vr and I-V curves are calculated from the value of Vrwm and Rdyn.
*
* Operation of this model has been verified only on the OrCAD.
**********************************************************************
.SUBCKT DIODE_DF2S5M4CT 1 2
D1 11 2 diode
C1 12 2 3.5e-13
R1 11 12 25
L1 1 11 0.6e-09
.MODEL diode D
+ IS = 1e-14
+ N = 1.24
+ ISR = 2.9e-10
+ NR = 2
+ BV = 3.6
+ IBV = 1e-07
+ RS = 0.3
+ CJO = 0
+ VJ = 1
+ M = 0.2
+ FC = 0.5
+ TT = 0
+ EG = 1.11
+ XTI = 3
+ NBV = 1
+ NBVL = 1
+ TBV1 = 0
+ TBV2 = 0
+ IBVL = 0
+ TNOM = 25
.ENDS


